US05113007
Preparation of 2-bromo-5-ethoxyhex-2-enal
A solution of 2.21 g (10 mmoles) of 2-bromo-1-trimethylsiloxybut-1,3-diene in 30 ml of anhydrous dichloromethane are introduced into a 100 ml reactor traversed by a stream of nitrogen. 1.18 g (about 11 mmoles) of 1,1-diethoxyethane are slowly added and then 100 mg of anhydrous zinc bromide. After reaction for 10 minutes, 20 ml of water are added, the organic phase is collected, and the aqueous phase is extracted with 20 ml of dichloromethane. The dichloromethane fractions are combined and dried with 5 g of anhydrous magnesium sulfate. The solvent is eliminated by vacuum evaporation and the residue distilled, the boiling point of the product being 66° C. under 0.15 mm Hg. 1.72 g of product are obtained, representing a yield of 78%. The structure of the product obtained is confirmed by NMR analysis and mass spectrometry.

reactant | 2-bromo-1-trimethylsiloxybut-1,3-diene | 10 mmoles, 2.21 g | BrC(=CO[Si](C)(C)C)C=C | C7H13BrOSi
reactant | 1,1-diethoxyethane | about 11 mmoles, 1.18 g | C(C)OC(C)OCC | C6H14O2
reactant | water | 20 ml | O | H2O
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
catalyst | zinc bromide | 100 mg | [Br-].[Zn+2].[Br-]
product | 2-bromo-5-ethoxyhex-2-enal | 1.72 g, yield of 78% | BrC(C=O)=CCC(C)OCC | C8H13BrO2
